US04377576
5,10-Dihydro-5-[3-(2,6-dimethyl-piperidino)-propionyl]-10-methyl-11H-dibenzo[b,e][1,4]diazepin-11-one
6.3 gm (0.02 mol) of 5-(3-chloro-propionyl)-5,10-dihydro-10-methyl-11H-dibenzo[b,e][1,4]diazepin-11-one and 8.4 (0.075 mol) of 2,6-dimethyl piperidine were refluxed in 100 ml of isopropanol for 6 hours. The reaction mixture was worked up as described in Example 13. After recrystallization from ethyl acetate by addition of a little ether, 4.2 gm (54% of theory) of the title compound were obtained.

reactant | 5-(3-chloro-propionyl)-5,10-dihydro-10-methyl-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.02 mol, 6.3 gm | ClCCC(=O)N1C2=C(N(C(C3=C1C=CC=C3)=O)C)C=CC=C2 | C17H15ClN2O2
reactant | 2,6-dimethyl piperidine | CC1NC(CCC1)C | C7H15N
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 5,10-Dihydro-5-[3-(2,6-dimethyl-piperidino)-propionyl]-10-methyl-11H-dibenzo[b,e][1,4]diazepin-11-one | CC1N(C(CCC1)C)CCC(=O)N1C2=C(N(C(C3=C1C=CC=C3)=O)C)C=CC=C2 | C24H29N3O2
